US08003654B2
6) Synthesis of ethyl-thiazol-4-ylmethyl-amine
prepared by reaction of the commercially available 4-chloromethyl-thiazole with 2M ethylamine in THF.

reactant | 4-chloromethyl-thiazole | ClCC=1N=CSC1 | C4H4ClNS
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-thiazol-4-ylmethyl-amine | C(C)NCC=1N=CSC1 | C6H10N2S
